US07745484B2
Step 1: (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(thiazol-4-ylmethyl)oxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-(thiazol-4-ylmethyl)oxazolidine-3-carboxylate (0.096 g, 0.29 mmol) was dissolved in DMF (1 mL) with 1H-imidazole (0.026 g, 0.38 mmol) and tert-butylchlorodimethylsilane (0.053 g, 0.35 mmol). The reaction was stirred 2 hrs, diluted with diethyl ether and washed twice with water and once with brine. The organic layer was dried over magnesium sulfate and concentrated to furnish the title compound, which was used for the next step without purification.

reactant | (4S,5S)-Tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-(thiazol-4-ylmethyl)oxazolidine-3-carboxylate | 0.29 mmol, 0.096 g | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=CSC1 | C15H24N2O4S
reactant | 1H-imidazole | 0.38 mmol, 0.026 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 0.35 mmol, 0.053 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(thiazol-4-ylmethyl)oxazolidine-3-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=CSC1 | C21H38N2O4SSi
